US06660870B1
1-(N,N-Dimethylaminoethyl)-2-benzamidobenzimidazole hydrochloride was prepared by the method of Example 1 using benzoyl chloride and 1-(N,N-dimethylaminoethyl)-2-aminobenzimidazole. MS 308 (M+1). 1H NMR (DMSO): δ 2.92 (s, 3H), 2.94 (s, 3H), 3.60 (m, 2H), 4.75 (m, 2H), 7.27-8.33 (m, 9H), 10.81 (broad s, NH).

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-(N,N-dimethylaminoethyl)-2-aminobenzimidazole | CN(C)CCN1C(=NC2=C1C=CC=C2)N | C11H16N4
product | 1-(N,N-Dimethylaminoethyl)-2-benzamidobenzimidazole hydrochloride | Cl.CN(C)CCN1C(=NC2=C1C=CC=C2)NC(C2=CC=CC=C2)=O | InChI=1S/C18H20N4O.ClH/c1-21(2)12-13-22-16-11-7-6-10-15(16)19-18(22)20-17(23)14-8-4-3-5-9-14;/h3-11H,12-13H2,1-2H3,(H,19,20,23);1H
